US04061663
1,10-Bis-O-sulfamyl-1,10-decanediol is prepared in the same manner as 1,2-bis-O-sulfamyl-1,2-ethanediol in Example 1 except that 1,10-decanediol (67 g., 0.385 mol.) is employed as the alkanediol.

reactant | 1,2-bis-O-sulfamyl-1,2-ethanediol | S(N)(=O)(=O)OCCOS(N)(=O)=O | C2H8N2O6S2
reactant | 1,10-decanediol | 0.385 mol, 67 g | C(CCCCCCCCCO)O | C10H22O2
product | 1,10-Bis-O-sulfamyl-1,10-decanediol | S(N)(=O)(=O)OCCCCCCCCCCOS(N)(=O)=O | C10H24N2O6S2
